* ADG779 MACROMODEL
* Description: Converter
* Generic Desc: 200 MHz 2:1 multiplexer - 1.8V
* Developed by: Y.WONG
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (08/2008)
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*
* END Notes
*
* Connections
*      1  = IN
*      2  = VDD
*      3  = GND
*      4  = S1
*      5  = D
*      6  = S2
*****************
.SUBCKT ADG779 1 2 3 4 5 6

X1 4 5 1 2 3 LOWONSWITCH
X2 6 5 1 2 3 HIGHONSWITCH
DINA 1 2 DX
DINB 3 1 DX
CC 4 6 0.22p

.MODEL DX D(IS=1E-12 N=0.5 RS=0.1)
.ENDS

****************
* Logic High On Switch
*
* Connections
*      101 = S
*      102 = D
*      103 = VIN
*      104 = VDD
*      105 = GND
*****************

.SUBCKT HIGHONSWITCH  101 102 103 104 105
x1 103 104 105 108 BUFF
X2 108 109 104 105 VSENSE
X3 109 105 110 ENABLEDELAY
X4 101 102 110 104 105 SWITCH

*MODELS USED
.ENDS

****************
* Logic Low On Switch
*
* Connections
*      101 = S
*      102 = D
*      103 = VIN
*      104 = VDD
*      105 = GND
*****************

.SUBCKT LOWONSWITCH  101 102 103 104 105
x1 103 104 105 108 NOTGATE
X2 108 109 104 105 VSENSE
X3 109 105 110 ENABLEDELAY
X4 101 102 110 104 105 SWITCH

*MODELS USED
.ENDS

*****************
* BUFF LOGIC
*
* Connections
*      201 = INPUT
*      202 = VDD
*      203 = GND
*      204 = OUTPUT
*****************
.SUBCKT BUFF 201 202 203 204
SBUFF 205 203 201 203 SMOD2
RBUFF 205 202 5G
EBUFFER 204 203 205 203 1

*MODELS USED
.MODEL SMOD2 VSWITCH(RON=1E-3 ROFF=1E11 VON=0.8 VOFF=2.4)
.ENDS

*****************
* NOT LOGIC
*
* Connections
*      201 = INPUT
*      202 = VDD
*      203 = GND
*      204 = OUTPUT
*****************
.SUBCKT NOTGATE 201 202 203 204
SNOT 205 203 201 203 SMOD2
RNOT 205 202 5G
EBUFFER 204 203 205 203 1

*MODELS USED
.MODEL SMOD2 VSWITCH(RON=1E-3 ROFF=1E11 VON=2.4 VOFF=0.8)
.ENDS

****************
* Switch
*
* Connections
*      201 = S
*      202 = D
*      203 = VIN
*      204 = VDD
*      205 = GND
*****************

.SUBCKT SWITCH  201 202 203 204 205

*ANALOG SWITCH
S1 201 208 203 205 SMOD1
S2 204 207 203 205 SMOD2
S3 204 207 201 205 SMOD3
S4 204 207 202 205 SMOD3
RD 207 205 5G
S5 208 202 207 205 SMOD4

DS1 201 204 DX
DS2 205 201 DX
DD1 202 204 DX
DD2 205 202 DX

*ON OFF ISOLATION*
CSD 201 202 0.1p

*BANDWIDTH
CSB 201 204 7.192p
CDB 202 204 7.192p

*CHARGE INJECTION
CGS 201 203 1.669p
CGD 202 203 1.669p

*MODELS USED
.MODEL SMOD1 VSWITCH(RON=2.5 ROFF=1.77E6 VON=2.4 VOFF=0.8)
.MODEL SMOD2 VSWITCH(RON=1E-3 ROFF=1E11 VON=2.4 VOFF=0.8)
.MODEL SMOD3 VSWITCH(RON=1E-3 ROFF=1E11 VON=0.8 VOFF=1.0)
.MODEL SMOD4 VSWITCH(RON=1E-3 ROFF=3.5E11 VON=2.4 VOFF=0.8)
.MODEL DX D(IS=1E-12 N=0.5 RS=0.1)
.ENDS

*****************
* ENABLE DELAY
*
* Connections
*      301 = INPUT
*      302 = COM
*      303 = OUTPUT
*****************
.SUBCKT ENABLEDELAY 301 302 303

EENBUFFER 304 302 301 302 1
RFEN 304 306 12k
CFEN 306 302 2.0p
DBREAKEN 306 305 DZ
RBEN 305 304 2k
EENBUFFEROUT 303 302 306 302 1

*MODELS USED
.MODEL DZ D(IS=1E-14 N=0.04)
.ENDS

*****************
* OPERATING VOLTAGE
*
* Connections
*      601 = INPUT
*      602 = OUTPUT
*      603 = VDD
*      604 = GND
*****************
.SUBCKT VSENSE 601 602 603 604
SD1 601 606 603 604 SMOD3
SD2 606 607 603 604 SMOD4
RD0 607 604 5G
EBUFFER 602 604 607 604 1

*MODELS USED
.MODEL SMOD3 VSWITCH(RON=1E-3 ROFF=1E11 VON=2.7 VOFF=2.6)
.MODEL SMOD4 VSWITCH(RON=1E-3 ROFF=1E11 VON=5.5 VOFF=5.6)
.ENDS




